US07521455B2
(1) Manufacture of 2-phenyl-4H-3,1-benzoxazin-4-one
Anthranilic acid (1.0 g, 7.29 mmol) was dissolved in pyridine (10 mL), benzoyl chloride (1.13 g, 8.02 mmol) was slowly added on an ice bath, and stirred at 50° C. overnight. The solvent was distilled off under reduced pressure, the residue was dissolved in dry methylene chloride (20 mL), oxalyl chloride (925 mg, 7.29 mmol) and a catalytic amount of dimethylformamide were added on an ice bath, and stirred at room temperature for 4 hours. Saturated sodium hydrogen carbonate aqueous solution was added, the mixture was extracted with methylene chloride, and the organic phase was dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, the residue was washed by diethyl ether/heptane, and the target substance (1.13 g, 69%) was obtained as a light yellow solid.

reactant | Anthranilic acid | 7.29 mmol, 1.0 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | benzoyl chloride | 8.02 mmol, 1.13 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | oxalyl chloride | 7.29 mmol, 925 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-phenyl-4H-3,1-benzoxazin-4-one | C1(=CC=CC=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | C14H9NO2
